US04233309
Arachidonic acid (99% pure, a product of Sigma Co., Ltd.) was dissolved in 0.1 M NaHCO3, and a 3.3 mM solution of sodium arachidonate was prepared. The solution was diluted with physiological saline to a concentration of 1 mM and used in the experiments. The 3.3 mM solution was stored in a refrigerator as a stock solution, and the 1 mM solution was newly prepared from the stock solution every time it was used.

reactant | Arachidonic acid | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C20H32O2
reactant | NaHCO3 | 0.1 M | C(=O)(O)[O-].[Na+]
product | sodium arachidonate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)[O-].[Na+] | InChI=1S/C20H32O2.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(21)22;/h6-7,9-10,12-13,15-16H,2-5,8,11,14,17-19H2,1H3,(H,21,22);/q;+1/p-1/b7-6-,10-9-,13-12-,16-15-;
